US03987047
3-Methylsulfonyl-1,2,4,5-tetrahydro-11-methyl3H-azepino[4,5-b]quinoline hydrochloride was prepared by acylation of 1,2,4,5-tetrahydro-11-methyl-azepino[4,5-b]quinoline with mesyl chloride in pyridine.

reactant | 1,2,4,5-tetrahydro-11-methyl-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-Methylsulfonyl-1,2,4,5-tetrahydro-11-methyl3H-azepino[4,5-b]quinoline hydrochloride | Yield: 73% | Cl.CS(=O)(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | InChI=1S/C15H18N2O2S.ClH/c1-11-12-5-3-4-6-14(12)16-15-8-10-17(20(2,18)19)9-7-13(11)15;/h3-6H,7-10H2,1-2H3;1H
